US07989444B2
Preparation 25: 7-(2-Chloroethyl)-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine
A mixture 2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (1 mmol), chloroacetaldehyde (2 mmol), NaBH(OAc)3 (2 mmol) in dry DME (10 ml) was stirred at room temperature for 3 h. The mixture was partitioned between aqueous Na2CO3 (0.5 M) and DCM. The organic layer was collected and the aqueous phase extracted twice with DCM. The combined DCM layers were concentrated and submitted to column chromatography (EtOAc—acetone gradient) to provide the title compound (36% yield).

reactant | 2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 1 mmol | CC=1OC2=CC3=C(CCNCC3)C=C2N1 | C12H14N2O
reactant | chloroacetaldehyde | 2 mmol | ClCC=O | C2H3ClO
reactant | NaBH(OAc)3 | 2 mmol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 7-(2-Chloroethyl)-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 36% yield | ClCCN1CCC2=C(CC1)C=C1C(=C2)OC(=N1)C | C14H17ClN2O
